US05112855
First 1.96 g (12.5 mmol) of piperidine-3-carboxylic acid ethyl ester and then 2.58 g (20 mmol) of N-ethyl-N,N-diisopropylamine are added to a solution of 3.34 g 10 mmol) of 2-[2-(p-toluenesulphonyloxy)ethyl]-benzo-1,4-dioxan in 50 ml of absolute dimethylformamide. The mixture is stirred for 16 hours at 60° and, after cooling, is concentrated by evaporation under a high vacuum. Water is added to the oily residue and extraction is carried out with diethyl ether. The combined organic phases are washed with water and extracted with 2N hydrochloric acid. The combined hydrochloric acid extracts are rendered alkaline, while cold, with sodium hydroxide solution (30% strength) and extracted with dichloromethane. The combined dichloromethane phases are dried over sodium sulphate and concentrated by evaporation in vacuo. 3.82 g (100%) of crude product are obtained which are filtered over 190 g of silica gel (0.040-0.063 mm) using ethyl acetate as the eluant. 3.70 g (96.6%) of 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-piperidine-3-carboxylic acid ethyl ester are then obtained in the form of a pale yellow oil. The 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-piperidine-3-carboxylic acid ethyl ester hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from ethanol/diethyl ether and melts at 162°-165°.

reactant | piperidine-3-carboxylic acid ethyl ester | 12.5 mmol, 1.96 g | C(C)OC(=O)C1CNCCC1 | C8H15NO2
reactant | N-ethyl-N,N-diisopropylamine | 20 mmol, 2.58 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-[2-(p-toluenesulphonyloxy)ethyl]-benzo-1,4-dioxan | C1(=CC=C(C=C1)S(=O)(=O)OCCC1COC2=C(O1)C=CC=C2)C | C17H18O5S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[2-(benzo-1,4-dioxan-2-yl)ethyl]-piperidine-3-carboxylic acid ethyl ester | 3.70 g, 96.6% | C(C)OC(=O)C1CN(CCC1)CCC1COC2=C(O1)C=CC=C2 | C18H25NO4
